US08003654B2
2-[(2-Chloro-5-dimethylamino-phenyl)-(3,4-dimethoxy-benzenesulfonyl)-amino]-N-ethyl-N-(6-methyl-pyrazin-2-ylmethyl)-thioacetamide
To a solution of 2-[(2-chloro-5-dimethylamino-phenyl)-(3,4-dimethoxy-benzenesulfonyl)-amino]-N-ethyl-N-(6-methyl-pyrazin-2-ylmethyl)-acetamide (20 mg) in dry toluene (0.2 mL) was added in one portion phosphorus pentasulfide (10 mg). The reaction mixture was stirred at 80° C. under nitrogen for 3 h. After cooling to RT, the reaction mixture was concentrated under reduced pressure and the residue was purified by FC (EA/n-heptane: 8/2 to EA) to give 12 mg (57%) of the title compound as a foam.

reactant | 2-[(2-chloro-5-dimethylamino-phenyl)-(3,4-dimethoxy-benzenesulfonyl)-amino]-N-ethyl-N-(6-methyl-pyrazin-2-ylmethyl)-acetamide | 20 mg | ClC1=C(C=C(C=C1)N(C)C)N(CC(=O)N(CC1=NC(=CN=C1)C)CC)S(=O)(=O)C1=CC(=C(C=C1)OC)OC | C26H32ClN5O5S
reactant | phosphorus pentasulfide | 10 mg | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | toluene | 0.2 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[(2-Chloro-5-dimethylamino-phenyl)-(3,4-dimethoxy-benzenesulfonyl)-amino]-N-ethyl-N-(6-methyl-pyrazin-2-ylmethyl)-thioacetamide | 12 mg, 57% | ClC1=C(C=C(C=C1)N(C)C)N(CC(=S)N(CC1=NC(=CN=C1)C)CC)S(=O)(=O)C1=CC(=C(C=C1)OC)OC | C26H32ClN5O4S2
